US09403831B2
(S)-(4-(2-(2-((6-(1-methyl-1H-pyrazol-4-yl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-1-yl)methyl)morpholino)pyrimidin-5-yl)phenyl) (4-methylpiperazin-1-yl)methanone (62 mg, 0.11 mmol) was dissolved in CH2Cl2 (5 ml), and 4 N HCl in dioxane (1 ml) was added, followed by stirring at room temperature for 1 hour. After the reaction was completed, the reaction mixture was purified with ether to give (S)-(4-(2-(2-((6-(1-methyl-1H-pyrazol-4-yl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-1-yl)methyl)morpholino)pyrimidin-5-yl)phenyl)(4-methylpiperazin-1-yl)methanone hydrochloride (59 mg, 90%).

reactant | (S)-(4-(2-(2-((6-(1-methyl-1H-pyrazol-4-yl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-1-yl)methyl)morpholino)pyrimidin-5-yl)phenyl) (4-methylpiperazin-1-yl)methanone | 0.11 mmol, 62 mg | CN1N=CC(=C1)C1=CN=C2C(=N1)N(N=N2)C[C@H]2OCCN(C2)C2=NC=C(C=N2)C2=CC=C(C=C2)C(=O)N2CCN(CC2)C | C29H32N12O2
reactant | HCl | 4 N | Cl | ClH
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
solvent | dioxane | 1 ml | O1CCOCC1 | C4H8O2
product | (S)-(4-(2-(2-((6-(1-methyl-1H-pyrazol-4-yl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-1-yl)methyl)morpholino)pyrimidin-5-yl)phenyl)(4-methylpiperazin-1-yl)methanone hydrochloride | 59 mg, 90% | Cl.CN1N=CC(=C1)C1=CN=C2C(=N1)N(N=N2)C[C@H]2OCCN(C2)C2=NC=C(C=N2)C2=CC=C(C=C2)C(=O)N2CCN(CC2)C | InChI=1S/C29H32N12O2.ClH/c1-37-7-9-39(10-8-37)28(42)21-5-3-20(4-6-21)22-13-31-29(32-14-22)40-11-12-43-24(18-40)19-41-27-26(35-36-41)30-16-25(34-27)23-15-33-38(2)17-23;/h3-6,13-17,24H,7-12,18-19H2,1-2H3;1H/t24-;/m0./s1
